* AB763 (Blackface Deluxe Reverb-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published AB763
* Deluxe Reverb-Amp drawing's component values (see meta.yaml); no drawing
* reproduced. The drawing labels the preamp bottles 7025 — an alias for the
* 12AX7 (reference/tubes/12ax7.yaml also_known_as); the two 12AT7 (reverb
* driver, phase inverter) use the clean-room 12AT7 model added with this amp.
*
* DC conventions. Two printed rail nodes are driven at their charted values and
* the rest of each stage is solved: BP1 = +415 V (6V6 plates / OT centre tap,
* OT primary DCR omitted) and BC = +325 V (the printed node feeding the phase-
* inverter plates and the 820 Ohm-cathode preamp stages). The 6V6 screens hang
* off BP1 through their 470 Ohm stoppers; the reverb driver hangs off BP1 through
* the reverb transformer (TR4, 125A20B) primary DCR, modeled at 200 Ohm. The
* input-stage rail BD is derived from BC through the drawing's 10k dropper.
*
* Fixed-bias supply (470 Ohm-1W + rectifier + 25/50 uF cans + 10k/10k-L divider)
* is replaced by an ideal -35 V source, exactly as its AC/ripple-filtering role
* warrants. DC-open caps are MODELLED where BOTH leads land on a named DC node
* (the PI->6V6 coupling caps and every cathode-bypass can) so an eventual layout
* is placement-checked; open at DC they move no operating point. Caps into the
* abstracted volume / tone / reverb-mix / tremolo networks stay omitted.
*
* EXCLUDED — the tremolo (vibrato) oscillator V5 (12AX7). It is a running phase-
* shift oscillator: its chart-printed pins (+270 V plate, +2.1 V cathode, +345 V,
* +17.0 V) are dynamic averages shifted by grid-leak detection, not a static
* quiescent point. A static DC solve of the printed 220k/2.7k self-bias stage
* lands near +200 V, ~26% off the printed +270 V, so force-fitting it would break
* the honesty rule (an internally-driven node with no well-defined DC point). It
* is documented in notes.md, not modeled. Its plate supply taps the input-stage
* rail (BD); with it excluded, BD reads above the factory value, so the two input-
* stage plates are reported informational (voltages.yaml), never gated.
.include models/12ax7.inc
.include models/12at7.inc
.include models/6v6gt.inc

VBP1 BP1 0 DC 415
VBC  BC  0 DC 325
VBIAS NBIAS 0 DC -35

* input-stage rail: BC -> 10k -> BD (drawing's second dropper)
RD1 BC BD 10k

* --- Normal channel input V1a (12AX7): 100k plate, 1.5k cathode (25uF), grid
*     returned to ground through the input jacks' 1M leak. Plate rail BD.
RLN1 BD PN1 100k
XVN1 PN1 GN1 KN1 12AX7
RGN1 GN1 0 1meg
RKN1 KN1 0 1500
CKN1 KN1 0 25u

* --- Vibrato channel input V2a (12AX7): identical topology, plate rail BD.
RLV1 BD PV1 100k
XVV1 PV1 GV1 KV1 12AX7
RGV1 GV1 0 1meg
RKV1 KV1 0 1500
CKV1 KV1 0 25u

* --- Vibrato channel 2nd stage V2b (12AX7): 100k plate, 820 cathode (25uF),
*     grid returns through the vibrato volume pot (~0 V DC). Plate rail BC.
RLV2 BC PV2 100k
XVV2 PV2 GV2 KV2 12AX7
RGV2 GV2 0 1meg
RKV2 KV2 0 820
CKV2 KV2 0 25u

* --- Reverb-recovery amp V3b (12AX7): 100k plate, 820 cathode (25uF), grid from
*     the reverb tank output through a 3.3M/220k network (~0 V DC). Plate rail BC.
RLR1 BC PR1 100k
XVR1 PR1 GR1 KR1 12AX7
RGR1 GR1 0 1meg
RKR1 KR1 0 820
CKR1 KR1 0 25u

* --- Vibrato/reverb mix driver V3a (12AX7): 100k plate, 820 cathode (25uF); its
*     grid carries the mixed dry+reverb signal and is shunted by the tremolo
*     optocoupler (DC-open path). DC grid ~0 via the 3.3M leak. Plate rail BC.
RLD1 BC PD1 100k
XVD1 PD1 GD1 KD1 12AX7
RGD1 GD1 0 3.3meg
RKD1 KD1 0 820
CKD1 KD1 0 25u

* --- Reverb driver V4 (12AT7, BOTH sections in parallel): shared 2.2k cathode
*     (25uF), grids tied through a 1M leak, plates tied and fed from BP1 through
*     the reverb transformer TR4 (125A20B) primary DCR (modeled 200 Ohm).
RTR4 BP1 PRD 200
XV4A PRD GRD KRD 12AT7
XV4B PRD GRD KRD 12AT7
RGRD GRD 0 1meg
RKRD KRD 0 2.2k
CKRD KRD 0 25u

* --- Phase inverter V6 (12AT7 long-tailed pair): 82k (hot) and 100k (cold)
*     plate loads from BC; cathodes joined at KPI, 470 Ohm to the tail junction
*     JPI, 22k tail from JPI to ground; both 1M grid leaks return to JPI. The
*     820 Ohm/OT-secondary negative-feedback loop sits at ~0 V DC (omitted).
RLPA BC PPIA 82k
XV6A PPIA GPIA KPI 12AT7
RGPA GPIA JPI 1meg
RLPB BC PPIB 100k
XV6B PPIB GPIB KPI 12AT7
RGPB GPIB JPI 1meg
RTAIL KPI JPI 470
RT2 JPI 0 22k

* --- Output pair 6V6GT (fixed bias): grids to -35 V through 220k leaks, screens
*     off BP1 through 470 Ohm-1W stoppers, cathodes grounded, plates at BP1 (OT
*     primary DCR omitted). Two distinct single-ended bottles V7 / V8.
RGL1 NBIAS G61 220k
XV7 BP1 S61 G61 0 6V6GT
RS1 BP1 S61 470
RGL2 NBIAS G62 220k
XV8 BP1 S62 G62 0 6V6GT
RS2 BP1 S62 470

* PI-plate -> 6V6-grid coupling caps (0.1u, DC-open). Modeled so an eventual
* layout's inter-stage routing and push-pull phase are machine-checked; each 6V6
* grid still sits at -35 V through its 220k leak, so the op point is unmoved.
C1 PPIA G61 0.1u
C2 PPIB G62 0.1u
