* AB763 (Blackface Deluxe Reverb-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published AB763
* Deluxe Reverb-Amp drawing's component values (see meta.yaml); no drawing
* reproduced. The drawing labels the preamp bottles 7025 — an alias for the
* 12AX7 (reference/tubes/12ax7.yaml also_known_as); the two 12AT7 (reverb
* driver, phase inverter) use the clean-room 12AT7 model added with this amp.
*
* SHARED CATHODE NETWORKS. The drawing carries boxed letters wherever a lead
* leaves one part of the sheet and lands on another. Two of them, [A] and [E],
* are cathode connections, and each ties TWO triodes to ONE 820 Ohm / 25 uF
* network that the sheet draws once:
*   [A] = node KA — the Normal channel's 2nd stage and the Vibrato channel's
*         2nd stage. The network is drawn at the Vibrato stage. The factory
*         layout wires it the same way: the Normal bottle's pin 8 runs to the
*         Vibrato bottle's pin 8, and one lead goes on to the single 820 Ohm.
*   [E] = node KE — the mix driver and the reverb-recovery amp. The network is
*         drawn at the recovery stage.
* The factory layout places one 820 Ohm cathode resistor per box, two in all.
* Each carries two triodes' current, which is what the chart's +1.3 V, printed
* at both ends of each box, is read across.
*
* DC conventions. Two printed rail nodes are driven at their charted values and
* the rest of each stage is solved: BP1 = +415 V (6V6 plates / OT centre tap,
* OT primary DCR omitted) and BC = +325 V (drawing node [C], printed beside the
* phase-inverter plate loads, the only stage it feeds). The 6V6 screens hang
* off BP1 through their 470 Ohm stoppers; the reverb driver hangs off BP1
* through the reverb transformer (TR4, 125A20B) primary DCR, modeled at 200
* Ohm. The preamp rail BD (drawing node [D]) is DERIVED from BC through the
* drawing's second 10k dropper, so its simulated value is a check on the chart
* rather than an input to it. Every 100k-loaded 12AX7 triode hangs from it —
* both channel inputs, both 2nd stages, the reverb recovery and the mix driver,
* six triodes on one 10k: the drawing runs all six plate loads to [D], and the
* factory layout fans each pair of 100k loads from an eyelet lettered D.
*
* Fixed-bias supply (470 Ohm-1W + rectifier + 25/50 uF cans + 10k/10k-L divider)
* is replaced by an ideal -35 V source, exactly as its AC/ripple-filtering role
* warrants. DC-open caps are MODELLED where BOTH leads land on a named DC node
* (the PI->6V6 coupling caps and every cathode-bypass can) so an eventual layout
* is placement-checked; open at DC they move no operating point. Caps into the
* abstracted volume / tone / reverb-mix / tremolo networks stay omitted, and so
* do the two 220k mixing resistors, which dead-end on the DC-open mix node.
*
* EXCLUDED — the tremolo (vibrato) oscillator V5 (12AX7). It is a running phase-
* shift oscillator: its chart-printed pins (+270 V plate, +2.1 V cathode, +345 V,
* +17.0 V) are running averages shifted by grid-leak detection, not a static
* quiescent point, so it is documented in notes.md, not modeled. Its plate
* loads return to the drawing's box [B] — the +415 V node after the choke,
* which this netlist drives as BP1 — not to the preamp rail, so leaving it out
* moves no gated node.
.include models/12ax7.inc
.include models/12at7.inc
.include models/6v6gt.inc

VBP1 BP1 0 DC 415
VBC  BC  0 DC 325
VBIAS NBIAS 0 DC -35

* preamp rail: BC -> 10k -> BD (drawing node [C] -> node [D]; BOM ref RD2). The
* +415 -> +325 dropper, BOM RD1, is not modelled — BC is driven at its charted
* value, so that dropper carries no DC the solve needs.
RD2 BC BD 10k

* --- Normal channel input V1a (12AX7): 100k plate, 1.5k cathode (25uF), grid
*     returned to ground through the input jacks' 1M leak. Plate rail BD.
RLN1 BD PN1 100k
XV1A PN1 GN1 KN1 12AX7
RGN1 GN1 0 1meg
RKN1 KN1 0 1500
CKN1 KN1 0 25u

* --- Normal channel 2nd stage V1b (12AX7): 100k plate, grid returned to ground
*     through the normal volume pot (~0 V DC). Plate rail BD. Its cathode pin
*     carries the drawing's boxed connection [A] and has NO resistor of its
*     own: it lands on node KA, the 820 Ohm / 25 uF network drawn once at the
*     Vibrato 2nd stage below.
RLN2 BD PN2 100k
XV1B PN2 GN2 KA 12AX7
RGN2 GN2 0 1meg

* --- Vibrato channel input V2a (12AX7): identical topology, plate rail BD.
RLV1 BD PV1 100k
XV2A PV1 GV1 KV1 12AX7
RGV1 GV1 0 1meg
RKV1 KV1 0 1500
CKV1 KV1 0 25u

* --- Vibrato channel 2nd stage V2b (12AX7): 100k plate, grid returned through
*     the vibrato volume pot (~0 V DC). Plate rail BD. Cathode on node KA.
RLV2 BD PV2 100k
XV2B PV2 GV2 KA 12AX7
RGV2 GV2 0 1meg

* --- Cathode network [A]: ONE 820 Ohm and ONE 25 uF can, carrying BOTH second
*     stages' current. Drawn at the Vibrato stage, under the designators the
*     parts list gives it there; the Normal stage's cathode returns to it
*     through the boxed [A] connection.
RKV2 KA 0 820
CKV2 KA 0 25u

* --- Reverb-recovery amp V3b (12AX7): 100k plate, grid from the reverb tank
*     output through a 3.3M/220k network (~0 V DC). Plate rail BD. Cathode on
*     node KE.
RLR1 BD PR1 100k
XV3B PR1 GR1 KE 12AX7
RGRV GR1 0 1meg

* --- Vibrato/reverb mix driver V3a (12AX7): 100k plate; its grid carries the
*     mixed dry+reverb signal, DC ~0 via the 3.3M leak. Plate rail BD. Its
*     cathode pin carries the drawing's boxed connection [E] and has NO
*     resistor of its own: it lands on node KE.
RLD1 BD PD1 100k
XV3A PD1 GD1 KE 12AX7
RGD1 GD1 0 3.3meg

* --- Cathode network [E]: ONE 820 Ohm and ONE 25 uF can, carrying BOTH the mix
*     driver's and the reverb recovery's current. Drawn at the recovery stage,
*     under the designators the parts list gives it there; the mix driver's
*     cathode returns to it through the boxed [E] connection.
RKR1 KE 0 820
CKR1 KE 0 25u

* --- Reverb driver V4 (12AT7, BOTH sections in parallel): shared 2.2k cathode
*     (25uF), grids tied through a 1M leak, plates tied and fed from BP1 through
*     the reverb transformer TR4 (125A20B) primary DCR (modeled 200 Ohm).
RTR4 BP1 PRD 200
XV4A PRD GRD KRD 12AT7
XV4B PRD GRD KRD 12AT7
RGRD GRD 0 1meg
RKRD KRD 0 2.2k
CKRD KRD 0 25u

* --- Phase inverter V6 (12AT7 long-tailed pair): 82k (hot) and 100k (cold)
*     plate loads from BC; cathodes joined at KPI, 470 Ohm to the tail junction
*     JPI, 22k tail from JPI to ground; both 1M grid leaks return to JPI. The
*     820 Ohm/OT-secondary negative-feedback loop sits at ~0 V DC (omitted).
RLPA BC PPIA 82k
XV6A PPIA GPIA KPI 12AT7
RGPA GPIA JPI 1meg
RLPB BC PPIB 100k
XV6B PPIB GPIB KPI 12AT7
RGPB GPIB JPI 1meg
RTAIL KPI JPI 470
RT2 JPI 0 22k

* --- Output pair 6V6GT (fixed bias): grids to -35 V through 220k leaks, screens
*     off BP1 through 470 Ohm-1W stoppers, cathodes grounded, plates at BP1 (OT
*     primary DCR omitted). Two distinct single-ended bottles V7 / V8.
RGL1 NBIAS G61 220k
XV7 BP1 S61 G61 0 6V6GT
RS1 BP1 S61 470
RGL2 NBIAS G62 220k
XV8 BP1 S62 G62 0 6V6GT
RS2 BP1 S62 470

* PI-plate -> 6V6-grid coupling caps (0.1u, DC-open). Modeled so an eventual
* layout's inter-stage routing and push-pull phase are machine-checked; each 6V6
* grid still sits at -35 V through its 220k leak, so the op point is unmoved.
C1 PPIA G61 0.1u
C2 PPIB G62 0.1u
